US20010007873A1
E. 6-[4-(2-Dimethylamino-ethoxy)-2,3-dimethyl-phenyl]-pyridin-2-ylamine
To a 100 mL round-boftomed flask equipped with condenser and N2 inlet were added 260 mg (0.716 mmol) 2-(2,5-dimethylpyrrolyl)-6-[4-(2-dimethylamino-ethoxy)-2,3-dimethyl-phenyl]-pyridine, 500 mg hydroxylamine hydrochloride, 9 mL ethanol, and 1 mL water. The reaction was refluxed 40 hours, cooled, poured into dilute hydrochloric acid, washed with ethyl acetate, adjusted to pH 12 with 6 N sodium hydroxide solution, and extracted twice into methylene chloride. The organic layer was dried over sodium sulfate and evaporated, then converted to the hydrochloride salt using HCl in ether to afford a hygroscopic solid, 182 mg (71%).

reactant | 2-(2,5-dimethylpyrrolyl)-6-[4-(2-dimethylamino-ethoxy)-2,3-dimethyl-phenyl]-pyridine | 0.716 mmol, 260 mg | CC=1NC(=CC1C1=NC(=CC=C1)C1=C(C(=C(C=C1)OCCN(C)C)C)C)C | C23H29N3O
reactant | hydroxylamine hydrochloride | 500 mg | Cl.NO
reactant | ethanol | 9 mL | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 6-[4-(2-Dimethylamino-ethoxy)-2,3-dimethyl-phenyl]-pyridin-2-ylamine | CN(CCOC1=C(C(=C(C=C1)C1=CC=CC(=N1)N)C)C)C | C17H23N3O
